US09302991B2
<Step-2>:(R)—N-(1-(4-(2,2-difluoroethoxy)-2-methylphenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 42% yield (1.0 g, clear colorless oil) from 1-(4-(2,2-difluoroethoxy)-2-methylphenyl)ethanone (1.6 g, 7.5 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(4-(2,2-difluoroethoxy)-2-methylphenyl)ethanone | 7.5 mmol, 1.6 g | FC(COC1=CC(=C(C=C1)C(C)=O)C)F | C11H12F2O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(4-(2,2-difluoroethoxy)-2-methylphenyl)ethyl)-2-methylpropane-2-sulfinamide | 42% yield | FC(COC1=CC(=C(C=C1)C(C)N[S@](=O)C(C)(C)C)C)F | C15H23F2NO2S
